US09227978B2
2,2′,5′-Trichloro-4-methoxy-5-vinylbiphenyl
To a stirred solution of 2,2′,5′-trichloro-5-iodo-4-methoxybiphenyl (3.4 g, 8.3 mmol) in toluene (100 mL) at room temperature, tributyl(vinyl)stannane (3.1 g, 9.9 mmol) was added followed by Pd(PPh3)4 (2 g, 1.7 mmol). The reaction mixture was degassed and back-filled with nitrogen (several cycles) and then stirred at reflux for 16 h. The mixture was allowed to cool to room temperature, a solution of KF (1.72 g, 29.7 mmol) in H2O (10 mL) was added and then stirred for 1 h. The mixture was partitioned between ethyl acetate and water. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (1-2% ethyl acetate/petroleum ether) to afford the desired product (2.4 g, 92% yield) as a white solid

reactant | 2,2′,5′-trichloro-5-iodo-4-methoxybiphenyl | 8.3 mmol, 3.4 g | ClC1=C(C=C(C(=C1)OC)I)C1=C(C=CC(=C1)Cl)Cl | C13H8Cl3IO
reactant | tributyl(vinyl)stannane | 9.9 mmol, 3.1 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | KF | 29.7 mmol, 1.72 g | [F-].[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.7 mmol, 2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2′,5′-Trichloro-4-methoxy-5-vinylbiphenyl | 2.4 g, 92% yield | ClC1=C(C=C(C(=C1)OC)C=C)C1=C(C=CC(=C1)Cl)Cl | C15H11Cl3O
